US08648068B2
4-{4-Fluoro-2-[(R)-(tetrahydro-pyran-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (3-pyrrolidin-1-yl-propyl)-amide
Prepared analogously to example 10.4 from 4-{4-fluoro-2-[(R)-(tetrahydro-pyran-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid and 3-pyrrolidin-1-yl-propylamine.

reactant | 4-{4-fluoro-2-[(R)-(tetrahydro-pyran-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O)O[C@H]2COCCC2 | C19H18FN3O4S
reactant | 3-pyrrolidin-1-yl-propylamine | N1(CCCC1)CCCN | C7H16N2
product | 4-{4-Fluoro-2-[(R)-(tetrahydro-pyran-3-yl)oxy]-phenylamino}-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (3-pyrrolidin-1-yl-propyl)-amide | N1(CCCC1)CCCNC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@H]2COCCC2)S1)C | C26H32FN5O3S
